2115-07-06 07:51:00 Physician Resident Progress Note
Chief Complaint: pneumonia
   24 Hour Events:
   rec'd 1 bag of plts
   Allergies:
   Cefepime
   Rash;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2115-7-5**] 06:39 PM
   Amikacin - [**2115-7-5**] 08:05 PM
   Vancomycin - [**2115-7-5**] 08:36 PM
   Piperacillin/Tazobactam (Zosyn) - [**2115-7-5**] 10:58 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze, pink
   tinged sputum last night 7 p.m., none since
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Flowsheet Data as of  [**2115-7-6**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.3
C (95.6
   HR: 79 (66 - 112) bpm
   BP: 158/106(120) {136/82(94) - 178/106(122)} mmHg
   RR: 28 (18 - 32) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,376 mL
                                                                    373 mL
   PO:
                                                                     50 mL
                                                                    220 mL
   TF:
   IVF:
                                                                  1,085 mL
                                                                    153 mL
   Blood products:
                                                                    241 mL
   Total out:
                                                                  2,875 mL
                                                                    675 mL
   Urine:
                                                                  2,875 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,499 mL
                                                                   -302 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: insp and exp ronchi diffusely bilateral but improved from
   yesterday)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   74 K/uL
   8.2 g/dL
   253 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.3 mEq/L
   13 mg/dL
   102 mEq/L
   140 mEq/L
   26.6 %
   1.5 K/uL
        [image002.jpg]
                             [**2115-7-5**]  04:23 PM
                             [**2115-7-6**]  04:34 AM
   WBC
   1.5
   Hct
   26.6
   Plt
   90
   74
   Cr
   0.5
   Glucose
   253
   Other labs: PT / PTT / INR:12.9/25.0/1.1, ALT / AST:49/13, Alk Phos / T
   Bili:235/1.9, Albumin:3.0 g/dL, LDH:207 IU/L, Ca++:8.4 mg/dL, Mg++:2.0
   mg/dL, PO4:2.5 mg/dL
   Imaging: CXR
   1. Rapid development of multifocal airspace opacities over a two day
   period.
   Given abnormalities on recent chest CT, this could be due to a rapidly
   progressive pneumonia. However, hemorrhage and aspiration should also
   be
   considered.
   2. New small right pleural effusion and likely mild interstitial edema.
   Microbiology: Glucan and Galactomannan from [**7-3**] P
   Sputum GNR and coag + staph
   Assessment and Plan
   53 yoM w/ a h/o follicular lymphoma, s/p allo-BMT, c/b GVH presenting
   with febrile neutropenia and sinopulmonary symptoms, started on broad
   spectrum antibiotics on the BMT service and transferred to the [**Hospital Unit Name 44**]
   given acute onset of hypoxia and significantly worsening cough.
   # Neutropenic fever / Pneumonia:
   -significantly worsening pneumonia in addition to sinus infection, GNR
   and coag + staph in sputum, in past w/ pseudomonas resistant to
   multiple abx, now on zosyn and amikacin which fits his sensitivity
   profile
   -initially thought to be ? DAH but has stabilizied and patient with
   decreased hemoptysis
   -per BMT change prednisone back to home dose and d/c solumedrol
   -plt goal tx if < 50
   -possibly worsening hypoxia due to fluids rec'd for hypotension (4L),
   elevated BNP and some pulmonary edema on CXR
   -diurese w/ 10 IV lasix, negative 1.5 liters yesterday, goal I/O
   negative 1 liter today
   -in addition could be due to worsening pneumonia, amikacin added to
   zosyn, continue for 2 wk course
   -f/u final culture results
   -per BMT could also be due to PNA in setting of count recovery and
   worsening infiltrate
   -hypoxia is currently stable, sating in low 90s on a high flow neb
   # ID: as above.  In addition continue home valgancyclovir for
   maintenance therapy for CMV colitis, no active diarrhea, last CMV viral
   load was negative.
   -continue on valgancyclovir maintenance therapy
   -continue lamivudine for borderline + HBV core ab, his vl was negative
   -on treatment dose of posaconazole, if glucan / galactomannan negative
   can change back to ppx dose of posaconazole
   -PCP [**Name9 (PRE) **] [**Name Initial (PRE) **]/ atovaquone
   # Sinusitis: improving on abx.
   # Lymphoma: On maintenance Rituxan therapy as outpatient.
   - Continue prophylaxis with posaconazole, atorvaquone, valcyte
   # GVHD: Has known GVHD of both skin and liver.
   - Continue prednisone as above  at 20mg daily
   # FEN: monitoring electrolytes and repleting as needed.
   -less likely need for intubation, can write for a neutropenic diet
   # PPx: Continuing home PPI,  bowel regimen as needed, pneumoboots, hold
   heparin given low platelets.
   # Access: Right sided port.
   # Code: Full.  confirmed with patient.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2115-07-06 12:47:00 Physician Attending Progress Note
Chief Complaint: cough
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53 yo presented to clinica with productive cough, febrile neutropenai.
   H/o lymphoma, s/p allo-HSCT ([**10-29**]), c/b GVHD.  Admitted to floor.
   Then with worsening hypoxemia, hemoptysis, pO2 of 62 on 100% NRB.  CXR
   with worsening infiltrate on right.
   24 Hour Events:
   Overnight patient continues on 100% Hiflow oxygen.  Treated with pulse
   steroids for DAH.
   Allergies:
   Cefepime
   Rash;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2115-7-5**] 06:39 PM
   Piperacillin/Tazobactam (Zosyn) - [**2115-7-5**] 10:58 PM
   Vancomycin - [**2115-7-6**] 08:00 AM
   Amikacin - [**2115-7-6**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   cyclosporine
   lamivudine
   protonix
   posiconazole
   atovaquone
   calcitriol
   singulaire
   ursadiol
   vitamin A
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: Dyspnea, Tachypnea
   Flowsheet Data as of  [**2115-7-6**] 12:47 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.8
C (96.4
   HR: 78 (66 - 110) bpm
   BP: 168/96(115) {136/82(94) - 178/106(122)} mmHg
   RR: 27 (18 - 32) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,376 mL
                                                                  1,009 mL
   PO:
                                                                     50 mL
                                                                    460 mL
   TF:
   IVF:
                                                                  1,085 mL
                                                                    549 mL
   Blood products:
                                                                    241 mL
   Total out:
                                                                  2,875 mL
                                                                  1,325 mL
   Urine:
                                                                  2,875 mL
                                                                  1,325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,499 mL
                                                                   -316 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : RML and RLL)
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, Rash: diffuse dry scaling scale
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   74 K/uL
   253 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.3 mEq/L
   13 mg/dL
   102 mEq/L
   140 mEq/L
   26.6 %
   1.5 K/uL
        [image002.jpg]
                             [**2115-7-5**]  04:23 PM
                             [**2115-7-6**]  04:34 AM
   WBC
   1.5
   Hct
   26.6
   Plt
   90
   74
   Cr
   0.5
   Glucose
   253
   Other labs: PT / PTT / INR:12.9/25.0/1.1, ALT / AST:49/13, Alk Phos / T
   Bili:235/1.9, Albumin:3.0 g/dL, LDH:207 IU/L, Ca++:8.4 mg/dL, Mg++:2.0
   mg/dL, PO4:2.5 mg/dL
   Microbiology: sputum with PSA and MSSA.
   Assessment and Plan
   Hypoxemia/respiratory distress:  Dense RML infitrate.  Sputum with PSA
   and MSSA - continue current antibiotics.  Focality of infiltrates and
   acute symptoms suggest aspiration of gastric contents or blood.
   HOTN resolved.
   HTN: Can restart home clonidine.
   ID:  Follow-up cultures, serum assays for glucans/mannans.
   GVHD: On prednisone daily.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2115-7-6**] 08:47 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2115-07-07 08:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2115-7-6**] 08:47 AM
   received pt w/ catheter in place
 STOOL CULTURE - At [**2115-7-6**] 11:08 AM
   Allergies:
   Cefepime
   Rash;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2115-7-5**] 06:39 PM
   Vancomycin - [**2115-7-6**] 08:00 AM
   Amikacin - [**2115-7-6**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2115-7-6**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Flowsheet Data as of  [**2115-7-7**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.9
C (96.6
   HR: 58 (54 - 113) bpm
   BP: 142/86(100) {130/84(98) - 168/108(120)} mmHg
   RR: 30 (17 - 35) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  1,820 mL
                                                                    163 mL
   PO:
                                                                    940 mL
             TF:
   IVF:
                                                                    880 mL
                                                                    163 mL
   Blood products:
   Total out:
                                                                  3,525 mL
                                                                    700 mL
   Urine:
                                                                  3,525 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,705 mL
                                                                   -537 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , No(t) Wheezes : , Diminished: R middle and lower lung
   field posteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   69 K/uL
   8.8 g/dL
   126 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.6 mEq/L
   20 mg/dL
   103 mEq/L
   143 mEq/L
   27.7 %
   5.2 K/uL
        [image002.jpg]
                             [**2115-7-5**]  04:23 PM
                             [**2115-7-6**]  04:34 AM
                             [**2115-7-7**]  05:12 AM
   WBC
   1.5
   5.2
   Hct
   26.6
   27.7
   Plt
   90
   74
   69
   Cr
   0.5
   0.5
   Glucose
   253
   126
   Other labs: PT / PTT / INR:13.0/25.1/1.1, ALT / AST:49/13, Alk Phos / T
   Bili:235/1.9, Differential-Neuts:57.0 %, Band:13.0 %, Lymph:7.0 %,
   Mono:9.0 %, Eos:0.0 %, Albumin:3.0 g/dL, LDH:207 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   53 yoM w/ a h/o follicular lymphoma, s/p allo-BMT, c/b GVH presenting
   with febrile neutropenia and sinopulmonary symptoms, started on broad
   spectrum antibiotics on the BMT service and transferred to the [**Hospital Unit Name 44**]
   given acute onset of hypoxia and significantly worsening cough.
   # Neutropenic fever / Pneumonia:
   -significantly worsening pneumonia in addition to sinus infection, GNR
   and coag + staph in sputum, in past w/ pseudomonas resistant to
   multiple abx, now on zosyn and amikacin which fits his sensitivity
   profile: Change coverage to ceftazidime and zosyn
   -d/w ID changing vanc to nafcillin given MSSA in sputum
   -unlikely DAH, hold on solumedrol for now, continue 20mg prednisone
   daily for GVH
   -diurese with goal I/O negative 1-2 liters today
   -plt goal tx if < 50
   -f/u final culture results
   -per BMT could also be due to PNA in setting of count recovery and
   worsening infiltrate
   -hypoxia is currently stable, sating in low 90s on a high flow neb
   # ID: as above.  In addition continue home valgancyclovir for
   maintenance therapy for CMV colitis, no active diarrhea, last CMV viral
   load was negative.
   -continue on valgancyclovir maintenance therapy
   -continue lamivudine for borderline + HBV core ab, his vl was negative
   -on treatment dose of posaconazole, if glucan / galactomannan negative
   can change back to ppx dose of posaconazole
   -PCP [**Name9 (PRE) **] [**Name Initial (PRE) **]/ atovaquone
   # Sinusitis: improving on abx.
   # Lymphoma: On maintenance Rituxan therapy as outpatient.
   - Continue prophylaxis with posaconazole, atorvaquone, valcyte
   # GVHD: Has known GVHD of both skin and liver.
   - Continue prednisone as above  at 20mg daily
   # FEN: monitoring electrolytes and repleting as needed.
   -less likely need for intubation, can write for a neutropenic diet
   # PPx: Continuing home PPI,  bowel regimen as needed, pneumoboots, hold
   heparin given low platelets.
   # Access: Right sided port.
   # Code: Full.  confirmed with patient.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2115-7-6**] 08:47 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2115-07-07 12:41:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54 yo male with BMT, p/w PNA.  Sputum Cx. with PSA and MSSA.  Feels
   better today
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2115-7-6**] 08:47 AM
   received pt w/ catheter in place
 STOOL CULTURE - At [**2115-7-6**] 11:08 AM
   Allergies:
   Cefepime
   Rash;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2115-7-5**] 06:39 PM
   Piperacillin/Tazobactam (Zosyn) - [**2115-7-6**] 12:00 PM
   Amikacin - [**2115-7-7**] 08:09 AM
   Vancomycin - [**2115-7-7**] 08:10 AM
   Piperacillin - [**2115-7-7**] 12:05 PM
   Infusions:
   Other ICU medications:
   Other medications:
   cyclosporine
   folate
   epivir
   protonix
   mepron
   calcitriol
   singulaire
   ursadiol
   MVI
   Vitamin E
   prednisone 30mg
   clonidine
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-7-7**] 12:41 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.8
C (96.4
   HR: 72 (54 - 113) bpm
   BP: 160/91(108) {130/84(98) - 166/108(120)} mmHg
   RR: 31 (17 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,820 mL
                                                                  1,119 mL
   PO:
                                                                    940 mL
                                                                    420 mL
   TF:
   IVF:
                                                                    880 mL
                                                                    699 mL
   Blood products:
   Total out:
                                                                  3,525 mL
                                                                  1,975 mL
   Urine:
                                                                  3,525 mL
                                                                  1,975 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,705 mL
                                                                   -856 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : Right LL, Bronchial:
   Right LL)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   69 K/uL
   126 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.6 mEq/L
   20 mg/dL
   103 mEq/L
   143 mEq/L
   27.7 %
   5.2 K/uL
        [image002.jpg]
                             [**2115-7-5**]  04:23 PM
                             [**2115-7-6**]  04:34 AM
                             [**2115-7-7**]  05:12 AM
   WBC
   1.5
   5.2
   Hct
   26.6
   27.7
   Plt
   90
   74
   69
   Cr
   0.5
   0.5
   Glucose
   253
   126
   Other labs: PT / PTT / INR:13.0/25.1/1.1, ALT / AST:49/13, Alk Phos / T
   Bili:235/1.9, Differential-Neuts:57.0 %, Band:13.0 %, Lymph:7.0 %,
   Mono:9.0 %, Eos:0.0 %, Albumin:3.0 g/dL, LDH:207 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Imaging: CXR: more diffuse infiltrates
   Assessment and Plan
   Respiratory distress, and PSA/MSSA PNA. Can d/c vanco, and amikacin,
   and continue aztreonam and Zosyn.
   GVDH/BMT:  continue meds
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2115-7-6**] 08:47 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2115-07-08 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Breathing has subjectively improved, no cough x 2 days.
   Taking good PO.
   Allergies:
   Cefepime
   Rash;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2115-7-5**] 06:39 PM
   Piperacillin/Tazobactam (Zosyn) - [**2115-7-6**] 12:00 PM
   Amikacin - [**2115-7-7**] 08:09 AM
   Vancomycin - [**2115-7-7**] 08:10 AM
   Piperacillin - [**2115-7-7**] 06:02 PM
   Aztreonam - [**2115-7-7**] 06:36 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-7-8**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36
C (96.8
   HR: 78 (56 - 103) bpm
   BP: 142/88(101) {131/82(96) - 166/106(120)} mmHg
   RR: 37 (23 - 37) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,021 mL
                                                                    155 mL
   PO:
                                                                    940 mL
             TF:
   IVF:
                                                                  1,081 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                  3,150 mL
                                                                  1,600 mL
   Urine:
                                                                  3,150 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,129 mL
                                                                 -1,445 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   NAD, lungs with scattered ronchi, R > L.  Heart RRR, no m/r/g.  Abd
   soft Nt ND no masess or organomegaly.
   EXT: WWP, no c/c/e
   Labs / Radiology
   74 K/uL
   8.7 g/dL
   146 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.4 mEq/L
   21 mg/dL
   99 mEq/L
   137 mEq/L
   28.0 %
   8.2 K/uL
        [image002.jpg]
                             [**2115-7-5**]  04:23 PM
                             [**2115-7-6**]  04:34 AM
                             [**2115-7-7**]  05:12 AM
                             [**2115-7-8**]  05:42 AM
   WBC
   1.5
   5.2
   8.2
   Hct
   26.6
   27.7
   28.0
   Plt
   90
   74
   69
   74
   Cr
   0.5
   0.5
   0.7
   Glucose
   [**Telephone/Fax (3) 3198**]
   Other labs: PT / PTT / INR:13.0/25.1/1.1, ALT / AST:48/29, Alk Phos / T
   Bili:238/1.8, Differential-Neuts:57.0 %, Band:13.0 %, Lymph:7.0 %,
   Mono:9.0 %, Eos:0.0 %, Albumin:3.0 g/dL, LDH:207 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   53 yoM w/ a h/o follicular lymphoma, s/p allo-BMT, c/b GVH presenting
   with febrile neutropenia and sinopulmonary symptoms, started on broad
   spectrum antibiotics on the BMT service and transferred to the [**Hospital Unit Name 44**]
   given acute onset of hypoxia and significantly worsening cough.
   # Pneumonia: Cultures + for MSSA and pseudomonas sensitive to zosyn.
   -on zosyn / aztreonam for pseudomonas and MSSA in sputum x 2 week
   course
   - F/U ID recs-
   -diurese with goal I/O negative 1 liter today, currently at goal,
   reassess later in day
   -plt goal tx if < 50
   -f/u final culture results
   -hypoxia is currently stable, sating 100 on a high flow neb, decrease
   O2
   -ENT should evaluate for need for sinus surgical intervention as sinus
   may be primary source for this pneumonia
   # ID: as above.
   - last CMV viral load was negative. Therefore hold on further
   valgancyclovir given low counts
   -continue lamivudine for borderline + HBV core ab, his vl was negative
   -on treatment dose of posaconazole, galactomannan / glucan negative-
   can switch to posaconazole ppx dose
   -PCP [**Name9 (PRE) **] [**Name Initial (PRE) **]/ atovaquone
   # Sinusitis: improving on abx.
   # Lymphoma: On maintenance Rituxan therapy as outpatient.
   - Continue prophylaxis with posaconazole, atorvaquone
   # GVHD: Has known GVHD of both skin and liver.
   - Continue prednisone as above  at 20mg daily
   # FEN: monitoring electrolytes and repleting as needed.
   # PPx: Continuing home PPI,  bowel regimen as needed, pneumoboots, hold
   heparin given low platelets.
   # Access: Right sided port.
   # Code: Full.  confirmed with patient.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2115-7-6**] 08:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2115-07-08 12:05:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54 yo man s/p BMT with GVH/COPD, CMV with chronic neutropenia,
   presented with psa and mssa pna. Abx switched from vanc/zosyn to
   vanc/zosyn/tobramycin to now zosyn/aztreonam. Cough improved. Had been
   requiring NRB, now on high flow neb at 50%. Received Solumedrol 500mg x
   1 dose for possible DAH, then returned to his outpt dose of prednisone
   20mg qd for GVH.
   24 Hour Events:
   abx changed as above
   Allergies:
   Cefepime
   Rash;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2115-7-5**] 06:39 PM
   Piperacillin/Tazobactam (Zosyn) - [**2115-7-6**] 12:00 PM
   Amikacin - [**2115-7-7**] 08:09 AM
   Vancomycin - [**2115-7-7**] 08:10 AM
   Piperacillin - [**2115-7-7**] 06:02 PM
   Aztreonam - [**2115-7-8**] 10:24 AM
   Infusions:
   Other ICU medications:
   Other medications:
   see resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea, breathing is much improved
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria
   Integumentary (skin): very dry
   Neurologic: No(t) Headache
   Flowsheet Data as of  [**2115-7-8**] 12:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36
C (96.8
   HR: 78 (56 - 103) bpm
   BP: 142/88(101) {131/82(96) - 161/102(117)} mmHg
   RR: 37 (23 - 37) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,021 mL
                                                                    935 mL
   PO:
                                                                    940 mL
                                                                    650 mL
   TF:
   IVF:
                                                                  1,081 mL
                                                                    285 mL
   Blood products:
   Total out:
                                                                  3,150 mL
                                                                  2,350 mL
   Urine:
                                                                  3,150 mL
                                                                  2,350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,129 mL
                                                                 -1,415 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress, Thin, No(t) Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Rhonchorous: much
   improved), right port site okay.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, very dry
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x4, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   74 K/uL
   146 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.4 mEq/L
   21 mg/dL
   99 mEq/L
   137 mEq/L
   28.0 %
   8.2 K/uL
        [image002.jpg]
                             [**2115-7-5**]  04:23 PM
                             [**2115-7-6**]  04:34 AM
                             [**2115-7-7**]  05:12 AM
                             [**2115-7-8**]  05:42 AM
   WBC
   1.5
   5.2
   8.2
   Hct
   26.6
   27.7
   28.0
   Plt
   90
   74
   69
   74
   Cr
   0.5
   0.5
   0.7
   Glucose
   [**Telephone/Fax (3) 3198**]
   Other labs: PT / PTT / INR:13.0/25.1/1.1, ALT / AST:48/29, Alk Phos / T
   Bili:238/1.8, Differential-Neuts:57.0 %, Band:13.0 %, Lymph:7.0 %,
   Mono:9.0 %, Eos:0.0 %, Albumin:3.0 g/dL, LDH:207 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: ANC 3870 yesterday.
   Microbiology: Sputum cx psa [**Last Name (un) **] to aztreoman and zosyn, and mssa.
   Fungal markers neg.
   Assessment and Plan
   s/p BMT with GVH/COPD. CMV tx stopped as no viremia since [**3-1**]
   surveillance. MICU for pna, with improved oxygen requirement.
   Cont zosyn/aztreonam for mssa and pseud pna- discuss mono/beta lactam
   coverage with ID.
   Sinus micro raises concern for chronic drainage/aspiration causing
   recurrent pna with same organism. Already involved ENT.
   other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2115-7-6**] 08:47 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 1 minutes
   Patient is critically ill

2115-07-09 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Posaconazole switched to ppx dose
   per ID can d/c aztreonam and leave on only zosyn but plan to discuss
   with BMT
   BMT recs to trend bilirubin
   Allergies:
   Cefepime
   Rash;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Last dose of Antibiotics:
   Amikacin - [**2115-7-7**] 08:09 AM
   Vancomycin - [**2115-7-7**] 08:10 AM
   Piperacillin - [**2115-7-7**] 06:02 PM
   Aztreonam - [**2115-7-9**] 01:52 AM
   Piperacillin/Tazobactam (Zosyn) - [**2115-7-9**] 05:49 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-7-9**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 73 (59 - 107) bpm
   BP: 137/83(96) {121/76(87) - 158/115(120)} mmHg
   RR: 26 (19 - 36) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,570 mL
                                                                    505 mL
   PO:
                                                                  1,690 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    880 mL
                                                                    305 mL
   Blood products:
   Total out:
                                                                  4,600 mL
                                                                    825 mL
   Urine:
                                                                  4,600 mL
                                                                    825 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,030 mL
                                                                   -320 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Clear : , Crackles : left base, Diminished: at
   left base, right middle lung field, Absent : R base)
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, time, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   74 K/uL
   8.6 g/dL
   154 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.9 mEq/L
   17 mg/dL
   102 mEq/L
   139 mEq/L
   27.6 %
   7.7 K/uL
        [image002.jpg]
                             [**2115-7-5**]  04:23 PM
                             [**2115-7-6**]  04:34 AM
                             [**2115-7-7**]  05:12 AM
                             [**2115-7-8**]  05:42 AM
                             [**2115-7-9**]  04:10 AM
   WBC
   1.5
   5.2
   8.2
   7.7
   Hct
   26.6
   27.7
   28.0
   27.6
   Plt
   90
   74
   69
   74
   Cr
   0.5
   0.5
   0.7
   0.5
   Glucose
   [**Telephone/Fax (3) 3233**]54
   Other labs: PT / PTT / INR:14.3/26.8/1.2, ALT / AST:48/26, Alk Phos / T
   Bili:265/1.7, Differential-Neuts:57.0 %, Band:13.0 %, Lymph:7.0 %,
   Mono:9.0 %, Eos:0.0 %, Albumin:3.0 g/dL, LDH:384 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Assessment and Plan
   53 yoM w/ a h/o follicular lymphoma, s/p allo-BMT, c/b GVH presenting
   with febrile neutropenia and sinopulmonary symptoms, started on broad
   spectrum antibiotics on the BMT service and transferred to the [**Hospital Unit Name 44**]
   given acute onset of hypoxia and significantly worsening cough.
   # Pneumonia: Cultures + for MSSA and pseudomonas sensitive to zosyn.
   -on zosyn / aztreonam for pseudomonas and MSSA in sputum x 2 week
   course
   - F/U ID recs-
   -diurese with goal I/O negative 1 liter today, currently at goal,
   reassess later in day
   -plt goal tx if < 50
   -f/u final culture results
   -hypoxia is currently stable, sating 100 on a high flow neb, decrease
   O2
   -ENT should evaluate for need for sinus surgical intervention as sinus
   may be primary source for this pneumonia
   # ID: as above.
   - last CMV viral load was negative. Therefore hold on further
   valgancyclovir given low counts
   -continue lamivudine for borderline + HBV core ab, his vl was negative
   -on treatment dose of posaconazole, galactomannan / glucan negative-
   can switch to posaconazole ppx dose
   -PCP [**Name9 (PRE) **] [**Name Initial (PRE) **]/ atovaquone
   # Sinusitis: improving on abx.
   # Lymphoma: On maintenance Rituxan therapy as outpatient.
   - Continue prophylaxis with posaconazole, atorvaquone
   # GVHD: Has known GVHD of both skin and liver.
   - Continue prednisone as above  at 20mg daily
   # FEN: monitoring electrolytes and repleting as needed.
   # PPx: Continuing home PPI,  bowel regimen as needed, pneumoboots, hold
   heparin given low platelets.
   # Access: Right sided port.
   # Code: Full.  confirmed with patient.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2115-7-6**] 08:47 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: